US04576958
To a stirred solution of 4-phenyl-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole (15.5 g, 0.05 mole) in 175 ml of dry tetrahydrofuran was added 7.95 ml (0.052 mole) of N,N-tetramethylethylenediamine. The reaction mixture was cooled to -78° and 45.9 ml of 1.6 M n-butyl lithium in hexane was added dropwise. After stirring the mixture an additional 15 minutes, hexafluoroacetone (12.2 ml) was condensed in a jacketed addition funnel and added dropwise. The mixture was stirred for 1 hour with continued cooling and then 200 ml of saturated aqueous sodium bicarbonate solution was added dropwise. The reaction was warmed to room temperature, and the organic layer was separated. The solvent was evaporated in vacuo and the residue was stirred in 300 ml of ethanol and 300 ml of 2N aqueous hydrochloric acid. The ethanol was removed in vacuo and the reaction mixture was basified to pH=8 with saturated aqueous potassium carbonate. The product was extracted into ether, washed with 10% aqueous sodium bicarbonate and dried over anhydrous potassium carbonate. After concentration in vacuo, the residue was purified by flash chromatography on silica gel (85:15 hexane/ethyl acetate) followed by trituration with petroleum ether to afford 12.3 g of 4-phenyl-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol, m.p. 119°-121°.

reactant | 4-phenyl-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole | 0.05 mole, 15.5 g | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=C(C=C1)SC)C(C)OCC | C20H22N2OS
reactant | n-butyl lithium | 1.6 M, 45.9 ml | C(CCC)[Li]
reactant | hexafluoroacetone | 12.2 ml | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-phenyl-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol | 12.3 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=C(C=C1)SC)C(O)(C(F)(F)F)C(F)(F)F | C19H14F6N2OS
